US05278158
To a solution of 500 mg 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine 1-oxide in 25 ml acetic acid, was added a catalytic amount of 10% palladium-carbon to perform catalytic hydrogenation. The catalyst was filtered off from the reaction mixture, the solvent was distilled off from the filtrate under reduced pressure, the residue was dissolved in 10 ml formic acid, and the solution was heated under reflux for 18 hours with stirring. After distilling off the solvent from the reaction mixture, water was added to the residue, and the resulting mixture was neutralized by addition of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, the solvent was distilled off from the dried solution, the residue was subjected to column chromatography on silica gel, elution was conducted by the use of a 20:1 mixture of chloroform and methanol, and the crude product thus obtained was recrystallized from ethanol, thus giving 119 mg of 1,6,7,8-tetrahydro-6,6-dimethyl-8-(2-pyridyl)imidazo[4,5-g][1,4]benzoxazine.

reactant | 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine 1-oxide | 500 mg | NC=1C(=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1)[N+](=O)[O-] | C15H16N4O4
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
product | 1,6,7,8-tetrahydro-6,6-dimethyl-8-(2-pyridyl)imidazo[4,5-g][1,4]benzoxazine | 119 mg | CC1(OC2=C(N(C1)C1=NC=CC=C1)C=C1C(=C2)N=CN1)C | C16H16N4O
